US08222249B2
5.20 1-((2-(2,6-dioxopiperidin-3-yl)-1-oxoisoindolin-5-yl)methyl)-3-(3-hydroxy-4-methylphenyl)urea
A mixture of 1-(3-(tert-butyldimethylsilyloxy)-4-methylphenyl)-3-((2-(2,6-dioxopiperidin-3-yl)-1-oxoisoindolin-5-yl)methyl)urea (0.54 g, 1.0 mmol) and cesium fluoride (0.15 g, 1.0 mmol) in DMF (10 mL) is heated to 70° C. for 8 hrs. The mixture is cooled and diluted with water (10 mL). The solid precipitate is filtered, rinsed with water (10 mL), and dried under vacuum to provide the product.

reactant | 1-(3-(tert-butyldimethylsilyloxy)-4-methylphenyl)-3-((2-(2,6-dioxopiperidin-3-yl)-1-oxoisoindolin-5-yl)methyl)urea | 1.0 mmol, 0.54 g | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=CC1C)NC(=O)NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O | C28H36N4O5Si
reactant | cesium fluoride | 1.0 mmol, 0.15 g | [F-].[Cs+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | 10 mL | O | H2O
product | 1-((2-(2,6-dioxopiperidin-3-yl)-1-oxoisoindolin-5-yl)methyl)-3-(3-hydroxy-4-methylphenyl)urea | O=C1NC(CCC1N1C(C2=CC=C(C=C2C1)CNC(=O)NC1=CC(=C(C=C1)C)O)=O)=O | C22H22N4O5
